US05959113
A mixture of 12.3 g of 1-(4-chlorophenyl)-2-pyridin-4-yl-ethanedione and 7.4 g of 2,4,6-trimethylbenzaldehyde in 125 ml of acetic acid containing 40 g of ammonium acetate was stirred at 100° C. for 2 hours, then left to cool to room temperature. The mixture was poured into a mixture of 300 ml of ice-water and 200 ml of concentrated ammonia solution and the mixture was extracted three times with ethyl acetate. After drying over anhydrous magnesium sulphate the solvent was evaporated. The residue was purified by chromatography on silica gel with dichloromethane/methanol (9:1) and crystallized from ethyl acetate to yield 6.7 g of 4-[5-(4-chlorophenyl)-2-(2,4,6-trimethyphenyl)imidazol-4-yl]pyridine, m.p. 275° C.

reactant | 1-(4-chlorophenyl)-2-pyridin-4-yl-ethanedione | 12.3 g | ClC1=CC=C(C=C1)C(C(=O)C1=CC=NC=C1)=O | C13H8ClNO2
reactant | 2,4,6-trimethylbenzaldehyde | 7.4 g | CC1=C(C=O)C(=CC(=C1)C)C | C10H12O
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | ammonia | 200 ml | N | H3N
solvent | acetic acid | 125 ml, 40 g | C(C)(=O)O | C2H4O2
product | 4-[5-(4-chlorophenyl)-2-(2,4,6-trimethyphenyl)imidazol-4-yl]pyridine | 6.7 g | ClC1=CC=C(C=C1)C1=C(N=C(N1)C1=C(C=C(C=C1C)C)C)C1=CC=NC=C1 | C23H20ClN3
